US07858781B2
(1) Step A: 2-(Benzotriazol-1-ylmethoxy)-5-chloro-benzaldehyde (98)
5-Chloro-2-hydroxy-benzaldehyde (8.45 g, 54 mmol) is dissolved in DMF (100 ml) and after addition of 1-(chlormethyl)-1H-benzotriazole (9.96 g, 59.4 mmol) and K2CO3 (9.7 g, 70.2 mmol) the mixture is stirred at 45° C. for 1 h (TLC control). Then the mixture is evaporated under high vacuum. The residue is diluted with ethyl acetate, washed with brine and dried over Na2SO4. Evaporation gave 3.9 g of a colorless solid. The product is used in the next step without further purification.

reactant | 5-Chloro-2-hydroxy-benzaldehyde | 54 mmol, 8.45 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 1-(chlormethyl)-1H-benzotriazole | 59.4 mmol, 9.96 g | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
reactant | K2CO3 | 70.2 mmol, 9.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(Benzotriazol-1-ylmethoxy)-5-chloro-benzaldehyde | 3.9 g | N1(N=NC2=C1C=CC=C2)COC2=C(C=O)C=C(C=C2)Cl | C14H10ClN3O2
